datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n+:21]([H:20])c1.NC1=[NH+][C@H]2C[C@@H](N1)[NH2+][C@@H]2C(=O)[O-:10]>>CCCCCCCCCCCCCCCC[NH+](CCCCCCCCCCCCCCCC)CCn1cc[n:21]c1.NC1=[NH+][C@H]2C[C@@H](N1)[NH2+][C@@H]2C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"C(=C/c1ccccc1)\C=N\[O-:10].C[n+]1ccc2ccccc2c1[S:21][H:20]>>C(=C/c1ccccc1)\C=N\[O:10][H:20].C[n+]1ccc2ccccc2c1[S-:21] 10=20;20,21=21",
"CCCC[NH:10]Cc1ccccc1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCC[NH+:10](Cc1ccccc1)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1nn(C)c(N(C)C(=O)C[NH2:10])c1C(=O)c1ccccc1F.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1nn(C)c(N(C)C(=O)C[NH2+:10][H:20])c1C(=O)c1ccccc1F.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(c1ccccc1)c1c(C(=O)[O:21][H:20])cccc1[N+](=O)[O-].[NH3+]c1ccc(CC(=O)[O-:10])cc1>>O=C(c1ccccc1)c1c(C(=O)[O-:21])cccc1[N+](=O)[O-].[NH3+]c1ccc(CC(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC(=O)N1CC[NH:10]CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)N1CC[NH+:10]([H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Brc1ccnc2c1ccc1ccc[n:10]c12.Cc1ncsc1C(=O)[O:21][H:20]>>Brc1ccnc2c1ccc1ccc[n+:10]([H:20])c12.Cc1ncsc1C(=O)[O-:21] 10=20;20,21=21",
"CC[N:10](CC#N)CC#N.c1ccc2[nH][n+:21]([H:20])cc2c1>>CC[N+:10](CC#N)(CC#N)[H:20].c1ccc2[nH][n:21]cc2c1 10=20;20,21=21",
"CC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1>>CC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccc(CC(N)=O)cc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH+:10](CC(O)COc1ccc(CC(N)=O)cc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCSC(C)[O-:10].Cc1ccc([N+:21](CC2CO2)(CC2CO2)[H:20])cc1>>CCSC(C)[O:10][H:20].Cc1ccc([N:21](CC2CO2)CC2CO2)cc1 10=20;20,21=21",
"CCCCc1c(C)nn(-c2ccccc2)c1[O-:10].O=C([C@@H]1O[C@H](Oc2ccc(Br)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>CCCCc1c(C)nn(-c2ccccc2)c1[O:10][H:20].O=C([C@@H]1O[C@H](Oc2ccc(Br)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"C1CN(CC[N+:21]2([H:20])CCOCC2)CCO1.O=C1OC(=O)[N-:10]c2ccccc21>>C1CN(CC[N:21]2CCOCC2)CCO1.O=C1OC(=O)[N:10]([H:20])c2ccccc21 10=20;20,21=21",
"C[NH+](C)c1ccc(/C=C/c2cc[n+]([O:21][H:20])cc2)cc1.O=[N+]([O-])c1ccccc1/C=N/[O-:10]>>C[NH+](C)c1ccc(/C=C/c2cc[n+]([O-:21])cc2)cc1.O=[N+]([O-])c1ccccc1/C=N/[O:10][H:20] 10=20;20,21=21",
"CC(CCc1ccc(O)cc1)[NH2:10].[S-]CC[NH2+:21][H:20]>>CC(CCc1ccc(O)cc1)[NH2+:10][H:20].[S-]CC[NH2:21] 10=20;20,21=21",
"CCc1cc(Cl)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC.Cc1cccc(C)c1NC(=O)C[NH+:21](C)[H:20]>>CCc1cc(Cl)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC.Cc1cccc(C)c1NC(=O)C[NH:21]C 10=20;20,21=21",
"CN1CCCCCC[N:10](C)CCCCCC1.O=C(N[O:21][H:20])c1ccccc1O>>CN1CCCCCC[N+:10](C)([H:20])CCCCCC1.O=C(N[O-:21])c1ccccc1O 10=20;20,21=21",
"CCC(O)C[N:10](CCO)C(C)(C)C.Cc1[nH]ccc1C(=O)[O:21][H:20]>>CCC(O)C[N+:10](CCO)(C(C)(C)C)[H:20].Cc1[nH]ccc1C(=O)[O-:21] 10=20;20,21=21",
"CN(C)c1cc[n+:21]([H:20])cc1.Cc1ccccc1/C(=N\CCC[N:10](C)C)c1ccccc1-c1ccccc1>>CN(C)c1cc[n:21]cc1.Cc1ccccc1/C(=N\CCC[N+:10](C)(C)[H:20])c1ccccc1-c1ccccc1 10=20;20,21=21",
"CC(C)[NH:10]C(C)C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](C(C)C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(Cc1ccc(O)cc1)[NH2+:21][H:20].Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O-:10])c1Cl>>CC(Cc1ccc(O)cc1)[NH2:21].Clc1cc(Cl)c(C[NH+]2CCOCC2)c([O:10][H:20])c1Cl 10=20;20,21=21",
"CNCC[N:10](C)CCN.N/C(N(c1ccccc1)c1ccccc1)=[NH+:21]/[H:20]>>CNCC[N+:10](C)(CCN)[H:20].NC(N(c1ccccc1)c1ccccc1)=[NH:21] 10=20;20,21=21",
"Cc1cc([O:21][H:20])n(C2CC[NH+](C)CC2)n1.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10]>>Cc1cc([O-:21])n(C2CC[NH+](C)CC2)n1.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)CC(=O)[O-:10].[O-][n+]1cnc2[nH]cnc2c1[N:21](Cc1ccccc1)[H:20]>>CC(C)CC(=O)[O:10][H:20].[O-][n+]1cnc2[nH]cnc2c1[N-:21]Cc1ccccc1 10=20;20,21=21",
"Cc1c(C(=O)[O-])c(C(=O)[O-])n(-c2ccccc2)[n:10]1.Cc1nnc(C)[n+:21]([H:20])c1C>>Cc1c(C(=O)[O-])c(C(=O)[O-])n(-c2ccccc2)[n+:10]1[H:20].Cc1nnc(C)[n:21]c1C 10=20;20,21=21",
"CC=C1C[N:10]2CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.O[C@H]1CCC[C@H]([NH2+:21][H:20])C1>>CC=C1C[N+:10]2([H:20])CC[C@]34C(=C(C(=O)OC)[C@H]1C[C@@H]32)Nc1ccccc14.O[C@H]1CCC[C@H]([NH2:21])C1 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-:10])c(C[NH3+])c2)c(Cl)c1Cl.C[NH2+]CCNCC[NH2+:21][H:20]>>CCOC(=O)COc1ccc(C(=O)c2ccc([O:10][H:20])c(C[NH3+])c2)c(Cl)c1Cl.C[NH2+]CCNCC[NH2:21] 10=20;20,21=21",
"CCCC[NH:10]C.CN(C)c1cc[n+]([O:21][H:20])cc1>>CCCC[NH+:10](C)[H:20].CN(C)c1cc[n+]([O-:21])cc1 10=20;20,21=21",
"C1CC2([NH2+:21][H:20])CC1C2.Cc1cc(C(CC(=O)[O-:10])c2ccccc2)ccc1O>>C1CC2([NH2:21])CC1C2.Cc1cc(C(CC(=O)[O:10][H:20])c2ccccc2)ccc1O 10=20;20,21=21",
